US07232823B2
Preparation of Intermediate 1-(4-Chloro-phenyl)-2-(2-chloro-phenyl)-5-hydrazonomethyl-1H-imidazole-4-carboxylic acid ethyl ester (I-2f)
A solution of 1-(4-chloro-phenyl)-2-(2-chloro-phenyl)-5-formyl-1H-imidazole-4-carboxylic acid ethyl ester (I-2e, 102 mg, 0.26 mmol), aqueous hydrazine hydrate (50% solution, 0.6 mmol) and glacial acetic acid (1 drop) was heated under reflux in toluene (3 ml) for 18 hours. After cooling to room temperature, the reaction mixture was concentrated in vacuo. The residue was partitioned between CH2Cl2 and sat'd aq. NaHCO3. The organic solution was dried and concentrated in vacuo. Purification using 2 mm chromatotron plates and a solvent gradient of 1:1 EtOAc/hexanes to 100% EtOAc provided the desired product I-2f (Rf=0.8, 100% EtOAc, 62 mg): +APCI MS (M+1) 403.1; 1H NMR (CD2Cl2) δ 1.40 (3H, t), 4.37 (2H, q), 5.60 (2H, br s), 7.10–7.14 (2H, m), 7.21–7.25 (3H, m), 7.29–7.33 (3H, m), 8.40 (1H, s).

reactant | 1-(4-chloro-phenyl)-2-(2-chloro-phenyl)-5-formyl-1H-imidazole-4-carboxylic acid ethyl ester | 0.26 mmol, 102 mg | C(C)OC(=O)C=1N=C(N(C1C=O)C1=CC=C(C=C1)Cl)C1=C(C=CC=C1)Cl | C19H14Cl2N2O3
reactant | hydrazine hydrate | 0.6 mmol | O.NN
catalyst | acetic acid | 1 drop | C(C)(=O)O | C2H4O2
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(4-Chloro-phenyl)-2-(2-chloro-phenyl)-5-hydrazonomethyl-1H-imidazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1N=C(N(C1C=NN)C1=CC=C(C=C1)Cl)C1=C(C=CC=C1)Cl | C19H16Cl2N4O2
